US06323235B1
Ethyl 7-methoxybenzofuran-2-carboxylate
To N,N-dimethylformamide (300 ml), o-vanillin (25.2 g), ethyl chloroacetate (23.5 ml) and potassium carbonate (45 mg) were added and the resulting mixture was stirred at 120° C. for 14 hours. The reaction mixture was filtered to remove insoluble inorganic salts, and 1N hydrochloric acid (50 ml) was added to the mixture to stop the reaction. Distilled water (250 ml) was added and the resulting mixture was extracted 4 times with totally 150 ml of ethyl acetate containing 15% of n-hexane. The organic layers were washed with distilled water (100 ml) and with saturated brine (100 ml), and dried over anhydrous sodium sulfate. The sodium sulfate was removed by filtration and the solvent was concentrated to dryness under reduced pressure. The residue was purified by column chromatography (solvent: n-hexane/ethyl acetate=10/1 to 5/1) using silica gel to obtain the desired compound (17.4 g, yield: 48%) in the form of colorless needle-shaped crystals.

reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
reactant | o-vanillin | 25.2 g | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
reactant | ethyl chloroacetate | 23.5 ml | ClCC(=O)OCC | C4H7ClO2
reactant | potassium carbonate | 45 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 250 ml | O | H2O
product | Ethyl 7-methoxybenzofuran-2-carboxylate | 17.4 g, yield: 48% | COC1=CC=CC=2C=C(OC21)C(=O)OCC | C12H12O4
